US04508688
Similarly, U.S. Pat. No. 2,839,390 addresses the removal of lead and zinc from their ores by chemical dissolution. Here, lead and zinc, if not already in the form of their sulfides, e.g., in galena and sphalerite, are converted to their sulfides. The sulfides are then reacted with oxalic acid converting the lead and zinc to their respective oxalates and evolving H2S gas. The product is filtered and the filter cake containing the oxalates is treated with an aqueous calcium acetate solution resulting in the formation of soluble lead and zinc acetates and insoluble calcium oxalate. The calcium oxalate precipitate is collected and reacted with sulfuric acid to regenerate oxalic acid while the solution is reacted with zinc so as to precipitate lead from the solution while forming more zinc acetate. The zinc may then be recovered by adding calcium hydroxide to the solution.

reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
reactant | zinc | [Zn] | Zn
product | zinc acetate | C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-] | InChI=1S/2C2H4O2.Zn/c2*1-2(3)4;/h2*1H3,(H,3,4);/q;;+2/p-2
